US06878733B1
Diethyl oxalate (30 mL) in 20 mL dry ether was added with stirring to 19 g potassium eethoxide suspended in 50 mL of dry ether. The mixture was cooled in an ice bath and 20 mL of 3-nitro-o-xylene in 20 mL of dry ether was slowly added. The thick dark red mixture was heated to reflux for 0.5 hr, concentrated to a dark red solid, and treated with 10% sodium hydroxide until almost all of the solid dissolved. The dark red mixture was treated with 30% hydrogen peroxide until the red color changed to yellow. The mixture was treated alternatively with 10% sodium hydroxide and 30% hydrogen peroxide until the dark red color was no longer present. The solid was filtered and the filtrate acidified with 6 N hydrochloric acid. The resulting precipitate was collected by vacuum filtration, washed with water, and dried under vacuum to give 9.8 g (45% yield) of 2-methyl-6-nitrophenylacetic acid as an off-white solid. The solid was hydrogenated in methanol over 10% palladium on carbon to give 9.04 g of 4-methyl-2-oxindole as a white solid.

reactant | Diethyl oxalate | 30 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium | 19 g | [K] | K
reactant | 3-nitro-o-xylene | 20 mL | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-methyl-6-nitrophenylacetic acid | 9.8 g, 45% yield | CC1=C(C(=CC=C1)[N+](=O)[O-])CC(=O)O | C9H9NO4
